US05192765
1-Amino-1-diphenylmethoxymethylcyclopentane
Benzhydrol (1.6 g) was added in one portion to a solution of 1-aminocyclopentane-1-methanol (1.0 g) and trifluoroacetic acid (3.5 ml) in methylene chloride (10 ml) and the mixture was stirred at room temperature for 3 hours and then treated with dioxane (10 ml) and 4M aqueous sodium hydroxide solution. The mixture was stirred at room temperature for 30 minutes and evaporated. The residue was partitioned between water and ether and the organic layer was extracted into 2M hydrochloric acid. The acidic extract was washed with ether/hexane (1:1), basified with solid sodium carbonate and extracted into ether. The organic extracts were dried over magnesium sulphate and evaporated to give the title compound as a pale yellow oil which was characterised as containing 0.25 molar equivalents of water (710 mg, 30%).

reactant | Benzhydrol | 1.6 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)O | C13H12O
reactant | 1-aminocyclopentane-1-methanol | 1.0 g | NC1(CCCC1)CO | C6H13NO
reactant | trifluoroacetic acid | 3.5 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | sodium hydroxide | 4M | [OH-].[Na+]
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
solvent | dioxane | 10 ml | O1CCOCC1 | C4H8O2
product | 1-Amino-1-diphenylmethoxymethylcyclopentane | NC1(CCCC1)COC(C1=CC=CC=C1)C1=CC=CC=C1 | C19H23NO
